US04931436
11-[[3-[3-(Diethylamino)propyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[3-(diethylamino)propyl]piperidine in a yield of 84% of theory. Colourless crystals, m.p. 257°-258° C. (ethanol/diisopropylether)

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[3-(diethylamino)propyl]piperidine | C(C)N(CCCC1CNCCC1)CC | C12H26N2
reactant | ethanol diisopropylether | C(C)O.C(C)(C)OC(C)C
product | 11-[[3-[3-(Diethylamino)propyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | yield of 84% | Cl.C(C)N(CCCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | InChI=1S/C25H33N5O2.ClH/c1-3-28(4-2)16-8-10-19-11-9-17-29(18-19)25(32)30-22-14-6-5-12-20(22)24(31)27-21-13-7-15-26-23(21)30;/h5-7,12-15,19H,3-4,8-11,16-18H2,1-2H3,(H,27,31);1H
